US08895313B2
2-(4-Amino-2-methoxyphenyl)-6-methoxybenzothiazole
Prepared as described in the Nitro Reduction section using 2-(2-methoxy-4-nitrophenyl)-6-methoxybenzothiazole (1.0 g, 3.13 mmol) and tin (II) dichloride dihydrate (5.66 g, 25.08 mmol) in EtOH (50 ml) to give the title compound (0.79 g, 89%) as a pale yellow solid after work-up and recrystallisation from EtOH.

reactant | 2-(2-methoxy-4-nitrophenyl)-6-methoxybenzothiazole | 3.13 mmol, 1.0 g | COC1=C(C=CC(=C1)[N+](=O)[O-])C=1SC2=C(N1)C=CC(=C2)OC | C15H12N2O4S
reactant | tin (II) dichloride dihydrate | 25.08 mmol, 5.66 g | O.O.[Sn](Cl)Cl
solvent | EtOH | 50 ml | CCO | C2H6O
product | 2-(4-Amino-2-methoxyphenyl)-6-methoxybenzothiazole | 0.79 g, 89% | NC1=CC(=C(C=C1)C=1SC2=C(N1)C=CC(=C2)OC)OC | C15H14N2O2S
